Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm seeking help in a crisis situation"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ yo M Mass ___ student w/ no inpatient 
psychiatric hospitalizations, no outpatient treaters presenting 
with worsening depressive symptoms and escalating self harming 
behaviors including repetitive head banging and cutting. 
.
Patient reports that in the setting of multiple psychosocial 
stressors including recent breakup increasing stress with school 
assignments, uncertainty with career goals he has experienced 
worsening "fully body depression." On clarification he describes 
this as being "fully engulfing" with feelings of hollowness, 
dissociation, sensation of pain." In an attempt to "alleviate" 
this feeling patient reports banging his head and cutting his 
arms and legs with a razor which has been increasing (frequency 
and severity) over the past week. On ___ patient reports 
taking his fists and banging them against the sides of his head 
in a "rhythmic" fashion. Per doctor's appointment at ___ 
___, patient met clinical criteria for mild 
concussive episode. Patient reports that he only stopped banging 
his head because of the pain to his head but acknowledges that 
it "helped" him feel better. Patient has difficulty vocalizing 
as to how this "helped." Patient reports an increase in 
frequency of cutting behaviors with a box cutter on his left 
upper arm. Patient reports long history of head banging since he 
was a kid, and cutting behaviors starting in high school. Per 
patient, the cutting and head banging helped "relieve" the 
emotional pain and has never been in an attempt to end his life. 
Over the last several years, patient has noticed that he has to 
escalate the severity of cutting and head banging to feel the 
same sense of relief.
.
In further discussion Mr. ___ characterizes his current 
emotion state as "freak outs." During these "freak outs" he 
reports suicidal thoughts, low mood, feelings of anger and 
sadness, "hard to even pretend that I'm happy." He endorses 
isolation, avoidance, not wanting to move, and self directed 
anger. Patient reports that he has experienced "freak outs" 
before but notes that the frequency of his freak outs have been 
increasing (3 in the past week) and have been more severe 
(severe head banging).
.
Mr. ___ endorses insomnia (difficulty falling asleep and 
early morning awakenings), poor concentration, feelings of 
guilt, "unstable" mood, low energy, lack of motivation, poor 
concentration, and decreased appetite. He reports profound 
hopelessness, feelings of worthlessness and occasional self 
derogatory thoughts. Patient also denies future orientation 
noting "don't think I've ever had a positive outlook on the 
future." Although he enjoys school, he notes that recently he 
walked into the ___ studio looked at his work and went home. 
Patient endorses passive suicidal thoughts that occurred 
yesterday but denies suicidal thoughts at this time. He said 
that yesterday and in the past, when he has thoughts of suicidal 
ideation he can remind himself of the consequences of it and can 
"usually talk myself down from it."
.
In the ED, patient was calm and cooperative and did not require 
any physical or chemical restraints. He utilized PRN Ativan 
0.5mg and PRN Hydroxyzine 25mg for anxiety and insomnia. 
.
On admission to the inpatient psychiatric unit, patient 
corroborates the information as above. He reports having 
longstanding depression and anxiety that "comes and goes." 
Recently he reports that "the small things set me off" and that 
"things people say or do that shouldn't be triggering are 
triggering." He reports feeling anxious and concerned that no 
one wants to be around him. He reports frequent episodes of 
"exploding" where he cuts, bangs his head, and punches himself. 
He experiences relief and feels "good in the moment" while he is 
self harming, but subsequently feels more depressed and guilty. 
He reports a history of egodystonic suicidal ideation but denies 
current SI, intent or plan. 
.
Mr. ___ reports a period of four nights last semester when 
he stayed up all night and was very focused on assignments and 
"running around the city." He endorsed racing thoughts and 
denied pressured speech. No one told him that he was not acting 
like himself at this time. He also denies risky behavior 
including hypersexuality, unsafe sex, increased spending, and 
legal troubles. 
.
Mr. ___ also reports difficulty concentrating and a 
"processing disorder" since childhood. When using stimulants 
recreationally, he reports feeling "normal," like he is able to 
process well. 
.
In regards to his self injurious behavior, Mr. ___ notes 
that prior to engaging in self harm, he appears "out of it, not 
present" and "actively paces and appears very anxious." He also 
reports cutting in private. He agrees to notify staff on the 
___ if he begins to feel the urge to engage in self harm. 
.
REVIEW OF SYSTEMS: Psychiatric: As per HPI. Denies auditory and 
visual hallucinations, grandiosity, nightmares, and flashbacks. 

-General: Denies fatigue, fever, chills, nightsweats, headache, 
focal numbness, focal weakness, changes in vision, changes in 
hearing, polyuria, polydipsia, cough, SOB, CP, palpitations, 
abdominal pain, nausea, vomiting, diarrhea, constipation, 
dysuria, rash and skin changes. 
 
Past Medical History:
Keratoconus 
 
Social History:
-B/R: ___ raised in ___ 
-___, apartments. Gets along with roommates
-___ studying ___. Goals are to graduate, get
recognized as a ___, see how far that goes. "Hope I 
don't
go blind." 
- Two dogs
- Family: 1 older sister, ___ younger
- Social: Good Social support. Slept over a friends house last
night because wasn't feeling safe. Talks with sister
-Interests: ___, Draw, Video music trailers for my friends  

SUBSTANCE USE HISTORY:
-Caffeine:~6 cups of coffee daily
-Tobacco:denies
-Alcohol: "socially drinks," drinks of weekends and ___,
occasionally has >5 drinks, has blacked out in past, none
recently, denies withdrawals, DTs, seizures
-Marijuana: occasional use, last on ___, does not buy own 
MJ
-Heroin: Denies
-Opiates: Denies
-Benzos: Denies
-Cocaine: Denies
-Amphetamines/speed: Denies
-LSD/PCP: ___: Denies
-Other Drugs: Denies

 
Family History:
Aunt, grandfather and grandmother with alcohol use disorder
Grandmother with anxiety disorder

Father's cousin committed suicide.
 
Physical Exam:
EXAM:
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. 
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants. 
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: superficial cutting lesions on left shoulder and upper 
arm
and L thigh, bruising anterior R axilla

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, 
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
Coordination: Normal on finger to nose test
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact not formally assessed 
-Fund of knowledge: Consistent with education; intact to last 3
presidents "Trump, Obama, ___
-Calculations: 7 quarters = "$1.75" "4+3"
-Abstraction: Interprets "don't judge a book by it's cover" as
"should probably look inside the book"
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: man appearing stated age, bearded male, wearing two
hospital gowns in no acute distress 
-Behavior: Sitting in chair, appropriate eye contact, some
fidgeting, anxious appearing
-Attitude: Cooperative, engaged, friendly; 
-Mood: "anxious"
-Affect: Mood-congruent, restricted affect, appears on verge of
tears at times
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: Denies SI/HI, intent, or plan
---Delusions: No evidence of paranoid delusions, grandiose
delusions, persecutory delusions, delusions of reference, or
delusions of thought insertion, withdrawal, or broadcasting
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: fair
-Judgment: Poor

 
Pertinent Results:
___ WBC-8.8 RBC-5.33 Hgb-16.1 Hct-46.3 MCV-87 MCH-30.2 
MCHC-34.8 RDW-11.8 RDWSD-37.2 Plt ___
Glucose-97 UreaN-10 Creat-1.0 Na-140 K-4.5 Cl-103 HCO3-21* 
AnGap-16

___ ALT-17 AST-22 AlkPhos-86 TotBili-1.1
               HbA1c-4.7 eAG-88
               Triglyc-93 HDL-37* CHOL/HD-3.7 LDLcalc-81

___ URINE bnzodzp-NEG barbitr-NEG opiates-NEG cocaine-NEG 
amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout his admission. He was also placed on 15 minute checks 
status on admission and remained on that level of observation 
throughout. He was initially unit restricted but was deemed safe 
by staff to have fresh air access starting on ___. 
.
2. PSYCHIATRIC:
#Unspecified Mood Disorder vs Major Depressive Disorder
Mr. ___ is a ___ yo male Mass ___ student with no previous 
psychiatric hospitalizations, no current outpatient treaters who 
presented  with worsening depressive symptoms and escalating 
self harming behaviors including repetitive head banging and 
cutting behaviors. On admission to ___, patient 
reports longstanding depression and anxiety that "comes and 
goes."
.
Recently he reports that "the small things set me off" and that 
"things people say or do that shouldn't be triggering are 
triggering." He reports feeling anxious and concerned that no 
one wants to be around him. He reports frequent episodes of 
"exploding" where he cuts, bangs his head, and punches himself. 
He experiences relief and feels "good in the moment" while he is 
self harming, but subsequently feels more depressed and guilty. 
He reports a history of egodystonic suicidal ideation but denies 
current SI, intent or plan. 
.
MSE on admission was notable for a gentleman with "anxious" 
mood, restricted affect, linear and logical thought process with 
fair insight and poor judgment. 
.
Mr. ___ presentation is consistent with major depressive 
disorder verses unspecified mood disorder and unspecified 
anxiety disorder verses GAD. His longstanding history of self 
injurious behavior also raises concern for poor impulse control. 

.
Mr. ___ was started on Fluoxetine titrated to 30mg PO daily. 
He initially reported headaches and feeling "out of it" but 
these side effects resolved after a couple of days. 
.
Mr. ___ reported improvement in mood and his range of affect 
notably broadened throughout his hospitalization. He was engaged 
in treatment, attended groups, and spent a significant amount of 
time self reflecting and utilizing coping skills. At the time of 
discharge he was looking forward to returning to school, future 
oriented, and eager to engage in outpatient therapy. 
.
3. SUBSTANCE USE DISORDERS:
#) Cannabis Use: Mr. ___ reported a history of intermittent 
cannabis use. We discussed the negative effects of cannabis use 
on physical and mental health. Patient will follow up with 
___ NP for medication management and for counseling on 
cannabis use. 
.
4. MEDICAL
#)None. Routine labs within normal limits.
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  He was 
calm and cooperative throughout admission and socialized with 
select peers. He was often seen reading or sketching in the 
dayroom or in his room. He attended groups that focused on 
teaching various coping skills.  
.
#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
The patient's family was involved in the patient's treatment and 
discharge planning. Patient's family and friends visited 
frequently. Patient family was supportive of his treatment plan 
and aftercare which includes returning to ___ 
and following with an outpatient psychiatric prescriber and 
therapist on regular basis. 
.
#) INTERVENTIONS
- Medications: Fluoxetine 30mg qday, Ativan 0.5mg PRN
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Re-Entry appointment at ___ 
___ on ___. Prescriber appointment with ___ 
___ on ___ and therapy appointment with ___ on 
___
- Behavioral Interventions: Provided DBT worksheets and 
encouraged DBT skills
.
#) RISK ASSESSMENT
Upon admission, patient was deemed to be at acutely elevated 
risk of self-harm due to worsening/intensifying urges to engage 
in self-injurious behavior. However, as noted above, patient 
consistently denied that self-injurious behavior was an attempt 
to end his life, and he adamantly denied current or recent 
suicidal ideation. Patient did report relative worsening 
depressive symptoms in the preceding weeks/months, for which an 
SSRI was initiated and a referral to outpatient therapy was 
provided. At time of discharge, patient exhibited mood congruent 
euthymic affect with future oriented thought content verbalized. 
He also demonstrated preserved capacity to engage in a 
meaningful conversation about safety planning about what he 
would do if thoughts/urges to engage in self-harm worsened, or 
if he experienced thoughts of suicide (e.g. patient would 
contact his therapist, on-call clinician at school, call his 
mother, or come to the emergency room). At time of discharge, 
patient was no longer at acutely elevated risk of self-harm due 
to a decompensated psychiatric illness such that he required 
ongoing inpatient admission.
 
Medications on Admission:
None

 
Discharge Medications:
Fluoxetine 30mg PO daily
1.  FLUoxetine 30 mg PO DAILY 
Take one tablet by mouth daily 
RX *fluoxetine 20 mg 1.5 tablet(s) by mouth daily Disp #*21 
Tablet Refills:*1 
2.  LORazepam 0.5 mg PO TID:PRN axniey 
RX *lorazepam [Ativan] 0.5 mg 1 tablet by mouth once daily Disp 
#*7 Tablet Refills:*1 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified Mood Disorder
Unspecified Anxiety Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___